US08026257B2
(±)-1-(5-Methoxy-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethanol.
To a solution of 5-methoxy-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-carbaldehyde (1.32 g, 4.31 mmol) in tetrahydrofuran (27 mL) at −78° C. was added methyl magnesiumbromide (3M in diethyl ether, 2.87 mL, 8.62 mmol). The reaction was allowed to gradually warm in the ice bath (ca. 1 h) to 0° C. The reaction which had been a suspension became a solution. The reaction was quenched by addition of saturated ammonium chloride and poured into diethyl ether. The ethereal was washed with water (2×), then brine, dried over magnesium sulfate, and concentrated to give 1.44 g (quant.) as oil. 1H-NMR (CDCl3, 300 MHz) δ 7.92 (s, 1H), 6.88 (s, 1H), 6.75 (s, 1H), 5.63 (s, 2H), 5.26 (q, J=6 Hz, 1H), 3.8 (s, 3H), 3.6 (m, 2H), 1.65 (d, J=6 Hz, 3H), 0.9 (m, 2H), -0.06 (s, 9H); Mass spec.: 323.42 (MH)+.

reactant | 5-methoxy-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-carbaldehyde | 4.31 mmol, 1.32 g | COC1=CC2=CN(N=C2C(=C1)C=O)COCC[Si](C)(C)C | C15H22N2O3Si
reactant | methyl magnesiumbromide | 8.62 mmol, 3M, 2.87 mL | C[Mg]Br
solvent | tetrahydrofuran | 27 mL | O1CCCC1 | C4H8O
product | (±)-1-(5-Methoxy-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethanol | COC1=CC2=CN(N=C2C(=C1)C(C)O)COCC[Si](C)(C)C | C16H26N2O3Si
